### PR TITLE
IsTruncMap n.+1 f <-> IsTruncMap n (ap f)

### PR DESCRIPTION
**Pull request by SkySkimmer**

### CODE REVIEW

File: theories/Fibrations.v [hunk 1]
```diff
@@ -221,3 +221,31 @@ Proof.
...
+       trunc_equiv' _ (hfiber_ap y)^-1.
+
+Definition istruncmap_from_ap {A B} n (f:A -> B)
+  : (forall x y, IsTruncMap n (@ap _ _ f x y)) ->
+    IsTruncMap n.+1 f.
+Proof.
+  intros E y a b;
+    change (IsTrunc n (a = b)).
+  destruct a as [a p], b as [b q].
+  destruct q.
```
Comment (spitters) [inline theories/Fibrations.v]: Not sure. Can these destructs be combined into the intro pattern?

File: theories/Fibrations.v [hunk 2]
```diff
@@ -221,3 +221,31 @@ Proof.
...
+
+Lemma isequiv_ap_isembedding {A B} (f : A -> B) : IsEmbedding f -> forall x y, IsEquiv (@ap _ _ f x y).
+Proof.
+  intros E x y. apply isequiv_fcontr,istruncmap_ap,E.
+Qed.
+
+Lemma isembedding_isequiv_ap {A B} (f : A -> B) : (forall x y, IsEquiv (@ap _ _ f x y)) -> IsEmbedding f.
+Proof.
+  intros E. apply istruncmap_from_ap. intros x y;red;apply fcontr_isequiv,E.
+Qed.
```
Comment (spitters) [inline theories/Fibrations.v]: Maybe combine have a corollary of these two lemmas that we have an equivalence of types? Not sure whether that is useful.

**Comment by spitters** [comment]
LGTM.

File: theories/Fibrations.v (hunk 1 above)
Comment (SkySkimmer) [inline theories/Fibrations.v]: The one for `q` can't be.

**Comment by mikeshulman** [comment]
Nice.  Should any of these be `Instance`s?

**Comment by SkySkimmer** [comment]
I picked a direction for instances, it might be wrong but that can only be seen after using it IMO.

File: theories/Fibrations.v [hunk 3]
```diff
@@ -221,3 +221,39 @@ Proof.
...
+
+Definition istruncmap_from_ap {A B} n (f:A -> B) `{!forall x y, IsTruncMap n (@ap _ _ f x y)}
+  : IsTruncMap n.+1 f.
+Proof.
+  intros y [a p] [b q];
+    destruct q;
+    exact (trunc_equiv' _ (hfiber_ap p)).
+Defined.
+
+Definition istruncmap_ap_equiv `{Funext} {A B} n (f:A -> B)
```
Comment (mikeshulman) [inline theories/Fibrations.v]: should this be `equiv_istruncmap_ap` by naming conventions?

File: theories/Fibrations.v [hunk 4]
```diff
@@ -221,3 +221,39 @@ Proof.
...
+  intros x y. apply isequiv_fcontr,_.
+Defined.
+
+Definition isembedding_isequiv_ap {A B} (f : A -> B) `{!forall x y, IsEquiv (@ap _ _ f x y)}
+  : IsEmbedding f.
+Proof.
+  apply istruncmap_from_ap. intros x y;red;apply fcontr_isequiv,_.
+Defined.
+
+Definition isequiv_ap_isembedding_equiv `{Funext} {A B} (f : A -> B)
```
Comment (mikeshulman) [inline theories/Fibrations.v]: similarly, `equiv_isequiv_ap_isembedding`?

**Comment by mikeshulman** [comment]
Your guess about the right direction for instances agrees with mine.

**Comment by SkySkimmer** [comment]
Travis said using instances removed a step in Pointed.v, I rewrote history so each commit compiles.

**Comment by mikeshulman** [comment]
Ok, LGTM once Travis approves it.
